US04532240
5-Bromo-6-methyl-2,4(1H,3H)pyrimidinedione
Bromine (39.97 g, 0.25 mole) was added dropwise to a cooled mixture of 31.5 g (0.25 mole) of 6-methyl-2,4(1H,3H)pyrimidinedione in 200 ml of glacial acetic acid. The resulting mixture was stirred at ambient temperature for 16 hours and then filtered. The solid which was collected was washed with water and dried in vacuo overnight at 69° C. to give 39.9 g of the product as a white solid, mp 254° C. (dec.).

reactant | Bromine | 0.25 mole, 39.97 g | BrBr | Br2
reactant | 6-methyl-2,4(1H,3H)pyrimidinedione | 0.25 mole, 31.5 g | CC1=CC(NC(N1)=O)=O | C5H6N2O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-Bromo-6-methyl-2,4(1H,3H)pyrimidinedione | 39.9 g | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
